US05110496
3-Fluoro-4-(5-n-octyloxypyrimidine-2-yl)benzoic acid (1.70 g) was heated together with excess thionyl chloride for 8 hours under reflux and thereafter, unaltered thionyl chloride was distilled off to obtain 3-fluoro-4-(5-n-octyloxypyrimidine-2-yl)benzoic acid chloride.

reactant | 3-Fluoro-4-(5-n-octyloxypyrimidine-2-yl)benzoic acid | 1.70 g | FC=1C=C(C(=O)O)C=CC1C1=NC=C(C=N1)OCCCCCCCC | C19H23FN2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-fluoro-4-(5-n-octyloxypyrimidine-2-yl)benzoic acid chloride | FC=1C=C(C(=O)Cl)C=CC1C1=NC=C(C=N1)OCCCCCCCC | C19H22ClFN2O2
